US06855722B2
c) 7-{2-[1-(2-Ethoxycarbonyl-1-naphthalen-1-yl-vinyl)-1H-indol-5-yloxy]-ethyl}-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester
The title compound was synthesized from naphthalene-1-yl-propynoic acid ethyl ester and 7-[2-(1H-indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester using the procedure described in Example 16, step (d1), in 37% yield as an E/Z isomeric mixture. 1H NMR (CDCl3) δ 8.32 (m, 1H), 7.85 (m, 2H), 7.47 (m, 3H), 7.27 (m, 2.5H), 6.95 (m, 3H), 6.72 (m, 1.5H), 6.58 (m, 0.5H), 6.35 (m, 1.5H), 4.27 (m, 2H), 4.03 (m, 2H), 3.69 (m, 2H), 3.14 (m, 2H), 2.67 (m, 2H), 1.86 (m, 2H), 1.45 (s, 9H), 1.18 (m, 3H).

reactant | naphthalene-1-yl-propynoic acid ethyl ester | C(C)OC(C#CC1=CC=CC2=CC=CC=C12)=O | C15H12O2
reactant | 7-[2-(1H-indol-5-yloxy)-ethyl]-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CNC2=CC1 | C23H27N3O3
product | 7-{2-[1-(2-Ethoxycarbonyl-1-naphthalen-1-yl-vinyl)-1H-indol-5-yloxy]-ethyl}-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | 37% yield | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CN(C2=CC1)C(=CC(=O)OCC)C1=CC=CC2=CC=CC=C12 | C38H39N3O5
